US05969134
2-(4,6-Dimethoxy-pyrimidin-2-yloxy)-3-methoxy-3,3-diphenylpropionic acid
2.12 g (5 mmol) of methyl 2-(4,6-dimethoxy-pyrimidin-2-yl-oxy)-3-methoxy-3,3-diphenylpropionate were dissolved in 50 ml of dioxane, 10 ml of 1 N KOH solution were added, and the mixture was stirred at 100° C. for 3 h. The solution was diluted with 300 ml of water and extracted with ethyl acetate to remove unreacted ester. The aqueous phase was then adjusted to pH 1-2 with dilute hydrochloric acid and extracted with ethyl acetate. After drying over magnesium sulfate and removal of the solvent by distillation, the residue was mixed with an ether/hexane mixture, and the precipitate which formed was filtered off with suction. After drying, 1.85 g (90%) of a white powder remained. Melting point 167° C.

reactant | methyl 2-(4,6-dimethoxy-pyrimidin-2-yl-oxy)-3-methoxy-3,3-diphenylpropionate | 5 mmol, 2.12 g | COC1=NC(=NC(=C1)OC)OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C23H24N2O6
reactant | KOH | 1 N, 10 ml | [OH-].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
product | 2-(4,6-Dimethoxy-pyrimidin-2-yloxy)-3-methoxy-3,3-diphenylpropionic acid | COC1=NC(=NC(=C1)OC)OC(C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C22H22N2O6
